US08492354B2
Ethyl 2-(Benzyloxycarbonylamino)-1-hydroxycyclopropanecarboxylate (6b)
To a solution of ethyl 2-(benzyloxycarbonylamino)-1-(tert-butyldimethylsilyloxy)cyclopropanecarboxylate (1.45 g, 3.69 mmol) in THF (35 mL) under N2 was added HF.pyridine (1.0 mL, 38 mmol). The reaction mixture was stirred for 5 h. After this time, additional HF.pyridine (1.0 mL, 38 mmol) was added and stirring was continued for 19 h. The reaction mixture was then cooled to 0° C. and diluted with Et2O (150 mL). The mixture was then carefully quenched with saturated aqueous NaHCO3 until gas evolution ceased. At this time, the organic layer was separated and the remaining aqueous layer was extracted with Et2O (300 mL). The combined organic layers were washed with brine (200 mL), dried (Na2SO4), filtered, and concentrated in vacuo. Purification by silica gel chromatography eluting with 20%-50% EtOAc/hexanes afforded the title compound (0.960 g, 93%): 1H NMR (300 MHz, CDCl3) δ 7.34-7.30 (m, 5H), 5.11-4.83 (m, 3H), 4.21 (q, J=7.2 Hz, 2H), 3.37-3.25 (m, 2H), 1.73-1.68 (m, 1H), 1.27 (t, J=7.2 Hz, 3H), 1.14-1.06 (m, 1H); ESI MS m/z 280 [M+H]+.

reactant | ethyl 2-(benzyloxycarbonylamino)-1-(tert-butyldimethylsilyloxy)cyclopropanecarboxylate | 3.69 mmol, 1.45 g | C(C1=CC=CC=C1)OC(=O)NC1C(C1)(C(=O)OCC)O[Si](C)(C)C(C)(C)C | C20H31NO5Si
reactant | pyridine | 38 mmol, 1.0 mL | N1=CC=CC=C1 | C5H5N
reactant | pyridine | 38 mmol, 1.0 mL | N1=CC=CC=C1 | C5H5N
solvent | THF | 35 mL | C1CCOC1 | C4H8O
solvent | Et2O | 150 mL | CCOCC | C4H10O
product | Ethyl 2-(Benzyloxycarbonylamino)-1-hydroxycyclopropanecarboxylate | 0.960 g, 93% | C(C1=CC=CC=C1)OC(=O)NC1C(C1)(C(=O)OCC)O | C14H17NO5
